US08609656B2
[2-(1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-1H-indol-4-yloxy)ethyl]-methylcarbamic acid tert-butyl ester (Table 1, Compound No. 20)
The title compound can be synthesized from [2-(1H-indol-4-yloxy)ethyl]-methylcarbamic acid tert-butyl ester, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)-phenyl isocyanate by using the same techniques as in Example 1.

reactant | [2-(1H-indol-4-yloxy)ethyl]-methylcarbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCOC1=C2C=CNC2=CC=C1)=O | C16H22N2O3
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)-phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | [2-(1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-1H-indol-4-yloxy)ethyl]-methylcarbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCOC1=C2C=CN(C2=CC=C1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C30H30ClF3N4O4
